US08012974B2
A mixture of 1-(cis-2-methyl-cyclohexyl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea (0.3 g, 0.7 mmol), tetrabutyl ammonium fluoride (1 M in THF, 4.6 mL, 4.6 mmol) and ethylene diamine (0.46 mL, 4.2 mmol) in 5 mL of N,N-dimethylformamide was stirred at 80° C. for 20 h, then concentrated. The resulting residue was triturated in methanol, and solid was isolated by filtration, washing with ether, and dried to afford 0.060 g (30%) of 1-(cis-2-methyl-cyclohexyl)-3-(5H-pyrrolo[2,3-b]pyrazin-2-yl)-urea as an off-white solid.

reactant | 1-(cis-2-methyl-cyclohexyl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.7 mmol, 0.3 g | C[C@@H]1[C@@H](CCCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C | C20H33N5O2Si
reactant | tetrabutyl ammonium fluoride | 4.6 mmol, 1 M, 4.6 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethylene diamine | 4.2 mmol, 0.46 mL | C(CN)N | C2H8N2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-(cis-2-methyl-cyclohexyl)-3-(5H-pyrrolo[2,3-b]pyrazin-2-yl)-urea | 0.060 g, 30% | C[C@@H]1[C@@H](CCCC1)NC(=O)NC=1N=C2C(=NC1)NC=C2 | C14H19N5O
